US05599814
a. 2-Chloro-4-methyl-6-nitroaniline
To a stirred solution of 4-methyl-2-nitroaniline (19.69 g, 129.4 mM) in chloroform (200 mL) under a nitrogen atmosphere was added dropwise a solution of chlorine (10.15 g, 285.9 mM) in chloroform (100 mL) while maintaining the reaction mixture temperature below 30° C. The reaction mixture was stirred for 3 days and then washed with aqueous sodium bicarbonate. The organic phase was then concentrated and the residue chromatographed (eluant: hexane/diethyl ether; 9/1) over silica gel to provide (6.03 g, 25%) the title compound as an orange crystalline solid, mp 68.5°-69.5° C.; MS(CI): 187 (M+H).

reactant | 4-methyl-2-nitroaniline | 129.4 mM, 19.69 g | CC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | chlorine | 285.9 mM, 10.15 g | ClCl | Cl2
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-4-methyl-6-nitroaniline | 6.03 g, 25% | ClC1=C(N)C(=CC(=C1)C)[N+](=O)[O-] | C7H7ClN2O2
